US08039471B2
(6S,7S)—N-hydroxy-6-{[4-(3-isopropylphenyl)piperidin-1-yl]carbonyl}-5-azaspiro[2.5]octane-7-carboxamide
(6S,7S)—N-hydroxy-6-{[4-(3-isopropylphenyl)-3,6-dihydropyridin-1(2H)-yl]carbonyl}-5-azaspiro[2.5]octane-7-carboxamide (10 mg) was hydrogenated at 1.0 atm over BaSO4 in MeOH for one hour to give the desired product, Ms(ESI): (M+H)+=400.4.

reactant | (6S,7S)—N-hydroxy-6-{[4-(3-isopropylphenyl)-3,6-dihydropyridin-1(2H)-yl]carbonyl}-5-azaspiro[2.5]octane-7-carboxamide | 10 mg | ONC(=O)[C@@H]1[C@H](NCC2(CC2)C1)C(=O)N1CCC(=CC1)C1=CC(=CC=C1)C(C)C | C23H31N3O3
reactant | BaSO4 | [O-]S(=O)(=O)[O-].[Ba+2]
solvent | MeOH | CO | CH4O
product | (6S,7S)—N-hydroxy-6-{[4-(3-isopropylphenyl)piperidin-1-yl]carbonyl}-5-azaspiro[2.5]octane-7-carboxamide | ONC(=O)[C@@H]1[C@H](NCC2(CC2)C1)C(=O)N1CCC(CC1)C1=CC(=CC=C1)C(C)C | C23H33N3O3
